US07067540B2
Preparation of 1-benzyl-3-bromo-4-hydroxypyridin-2(1H)-one
A suspension of N-benzyl-4-hydroxy-2-pyridone ((0.75 g, 3.7 mmol), NBS (0.7 g, 1.05 mmol) in dichloromethane was stirred at room temperature for 1.5 h under argon atmosphere. It was diluted with dichloromethane (25 mL), cooled and filtered. The solids were washed with dichloromethane and dried in vacuo. The filtrate and the washings were combined and washed with water, dried (Na2SO4), filtered, and concentrated to dryness. The resulting residue was washed with EtOAc, and dried in vacuo to give a combined mass of 0.65 g of the title compound as a white powder: 1H NMR (CD3OD) δ: 7.54 (d, 1H, J=7.6 Hz), 7.27 (m, 5H), 6.12 (d, 1H, J=7.6 Hz), 5.15 (s, 2H); ES-MS: m/z=280 (MH+).

reactant | N-benzyl-4-hydroxy-2-pyridone | C(C1=CC=CC=C1)N1C(C=C(C=C1)O)=O | C12H11NO2
reactant | NBS | 1.05 mmol, 0.7 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 1-benzyl-3-bromo-4-hydroxypyridin-2(1H)-one | 0.65 g | C(C1=CC=CC=C1)N1C(C(=C(C=C1)O)Br)=O | C12H10BrNO2
